US03962227
7-[2-(2-Thienyl)acetamido]-3-fluoro-3-cephem-4-carboxylic acid.
To a solution of 325 mg. (0.7 mmole) of p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-hydroxy-3-cephem-4-carboxylate in 10 ml. of methylene chloride was slowly added an equivalent amount of N-(2-chloro-1,1,2-trifluoroethyl) diethylamine. The reaction mixture was heated for 30 minutes under gentle reflux and was then evaporated to dryness in vacuo. The residue was dissolved in a mixture of ethyl acetate-water and the organic layer was separated. The organic layer was washed with 5% hydrochloric acid, water and brine and was then dried. The dried reaction product solution was concentrated to a small volume and n-hexane was added to precipitate, p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-fluoro-3-cephem-4-carboxylate.

reactant | p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-hydroxy-3-cephem-4-carboxylate | 0.7 mmole | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C20H17N3O7S2
reactant | N-(2-chloro-1,1,2-trifluoroethyl) diethylamine | ClC(C(F)(F)N(CC)CC)F | C6H11ClF3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-[2-(2-Thienyl)acetamido]-3-fluoro-3-cephem-4-carboxylic acid | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)F)C(=O)O)C1=O | C13H11FN2O4S2
